US08058045B2
N-(5-Bromo-4-chloropyridin-2-yl)pivalamide
NBS (8.37 g. 47.0 mmol) was added to a solution of N-(4-chloropyridin-2-yl)pivalamide (2.00 g, 9.40 mmol) in dry acetonitrile (20 mL). The resulting suspension was heated for 3 hr and then cooled to r.t. The solvent was removed in vacuo and the crude mixture was diluted with ethyl acetate (100 mL). The organic phase was washed with aqueous NaOH (10%, 2×40 mL), water (40 mL) and dried (MgSO4). The solvent was removed in vacuo and the crude mixture was purified by flash chromatography on silica, eluting with ethyl acetate and hexane (1/9), to give the title compound as a colourless solid (1.82 g, 66%).

reactant | NBS | 47.0 mmol, 8.37 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | N-(4-chloropyridin-2-yl)pivalamide | 9.40 mmol, 2.00 g | ClC1=CC(=NC=C1)NC(C(C)(C)C)=O | C10H13ClN2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-(5-Bromo-4-chloropyridin-2-yl)pivalamide | 1.82 g, 66% | BrC=1C(=CC(=NC1)NC(C(C)(C)C)=O)Cl | C10H12BrClN2O
